US05861401
A solution of 5-dimethylamino-1-naphthalenesulphonyl chloride (3.98 g), 3-amino-6-chloropyridazine (1.91 g) and 4-dimethylaminopyridine (100 mg) in pyridine (25 ml) was heated at 85° C for 18 hours. Volatile material was removed by evaporation and dichloromethane (50 ml) was added. Insoluble material was removed by filtration and the filtrate was concentrated by evaporation. The residue was purified by flash chromatography, eluting with ethyl acetate/hexane (1:1 v/v), and the resulting foam was crystallised from ether to give 5-(dimethylamino)-N-(6-chloro-3-pyridazinyl)-1-naphthalenesulphonamide (1.74 g), m.p. 153°-154° C.; mass spectrum (positive chemical ionisation ((+)ve CI)): 363 (M+H)+.

reactant | 5-dimethylamino-1-naphthalenesulphonyl chloride | 3.98 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | 3-amino-6-chloropyridazine | 1.91 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 5-(dimethylamino)-N-(6-chloro-3-pyridazinyl)-1-naphthalenesulphonamide | 1.74 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1N=NC(=CC1)Cl)C | C16H15ClN4O2S
